US07557112B2
After a mixture of methyl 4-methyl-3-[(2,4,5-trifluorobenzoyl)amino]thiophene-2-carboxylate, MeOH, THF and 1M NaOH aq was stirred at 70° C., 1M of hydrochloric acid aq was added and the extracted solid was filtered to give 3-[(2,5-difluoro-4-methoxybenzoyl)amino]-4-methythiophene-2-carboxylic acid.

reactant | methyl 4-methyl-3-[(2,4,5-trifluorobenzoyl)amino]thiophene-2-carboxylate | CC=1C(=C(SC1)C(=O)OC)NC(C1=C(C=C(C(=C1)F)F)F)=O | C14H10F3NO3S
reactant | MeOH | CO | CH4O
reactant | NaOH | 1M | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 3-[(2,5-difluoro-4-methoxybenzoyl)amino]-4-methythiophene-2-carboxylic acid | FC1=C(C(=O)NC2=C(SC=C2C)C(=O)O)C=C(C(=C1)OC)F | C14H11F2NO4S
